US05723450
4-(4-Oxocyclohexyloxy)-3-methoxy-2-methylpyridine
1 g of 4-(3,3-dimethyl-1,5-dioxaspiro[5.5]undecan-9-yloxy)-3-methoxy-2-methylpyridine is stirred with 20 ml of formic acid and 5 ml of acetone for 5 hours. The residue which remains after concentrating is purified by chromatography on silica gel using ethyl acetate. 0.3 g=41%; m.p.: 56° to 57° C.

reactant | 4-(3,3-dimethyl-1,5-dioxaspiro[5.5]undecan-9-yloxy)-3-methoxy-2-methylpyridine | 1 g | CC1(COC2(OC1)CCC(CC2)OC2=C(C(=NC=C2)C)OC)C | C18H27NO4
reactant | formic acid | 20 ml | C(=O)O | CH2O2
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 4-(4-Oxocyclohexyloxy)-3-methoxy-2-methylpyridine | O=C1CCC(CC1)OC1=C(C(=NC=C1)C)OC | C13H17NO3
